US07842830B2
2-Phenyl-[1,3]dithiane (JYC-II-051-A).
1,3-propanedithiol (11.22 g, 103.7 mmol) was added to a solution of benzaldehyde (10.0 g, 94.2 mmol) in 150 mL of CHCl3. The mixture was stirred at room temperature for 4 h. Concentrated HCl (2 mL) was added to the reaction mixture and the resulting mixture was stirred at room temperature for additional 2 h. The mixture was washed with H2O and brine. The organic layer was dried over MgSO4 and the organic solvent was removed under reduced pressure. The crude product was purified by column chromatography (silica gel, hexanes:dichloromethane=3:1 (v/v)) to give a colorless solid (15.29 g, 83%). 1H NMR (300 MHz, CDCl3, δ): 7.43-7.48 (m, 2H), 7.25-7.36 (m, 3H), 5.15 (s, 1H), 2.85-3.10 (m, 4H), 2.10-2.20 (m, 1H), 1.84-1.99 (m, 1H). 13C{1H} NMR (75 MHz, CDCl3, δ): 138.95, 128.59, 128.29, 127.61, 51.48, 32.13, 25.15.

reactant | 1,3-propanedithiol | 103.7 mmol, 11.22 g | C(CCS)S | C3H8S2
reactant | benzaldehyde | 94.2 mmol, 10.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | HCl | 2 mL | Cl | ClH
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Phenyl-[1,3]dithiane | 15.29 g, 83% | C1(=CC=CC=C1)C1SCCCS1 | C10H12S2
